US04161528
A mixture consisting of 188 gm of ethylene bromide, 383 gm of 3-chloro-aniline and 300 gm of sodium carbonate was stirred at 140° C. for five hours. Thereafter, the reaction mixture was cooled to about 80° C., and by addition of water the inorganic substances were caused to go into solution. The mixture was then extracted with ethyl acetate, the organic extract was dried over sodium sulfate, and the solvent as well as unreacted 3-chloroaniline were distilled off in vacuo, leaving 205 gm (76% of theory) of raw N,N'-bis-(3-chlorophenyl)-ethylenediamine. The raw product may be purified by distillation at 16 mm Hg and about 285° C.

reactant | ethylene bromide | 188 gm | C(CBr)Br | C2H4Br2
reactant | 3-chloro-aniline | 383 gm | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium carbonate | 300 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | N,N'-bis-(3-chlorophenyl)-ethylenediamine | 205 gm, 76% | ClC=1C=C(C=CC1)NCCNC1=CC(=CC=C1)Cl | C14H14Cl2N2
